US05162312
e) 17beta-hydroxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one
2.3 g of 17beta-hydroxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one is dissolved in 20 ml of pyridine dried on KOH and is mixed at -30° C. with stirring in an inert gas atmosphere with 2.88 g of pyridine hydrobromide perbromide. Then, it is stirred for about 15 minutes at a temperature of about -5° C. and then the excess bromation agent is destroyed by addition of dihydropyrane. Then, it is stirred for 4 hours at room temperature, the reaction mixture is mixed with water and the steroid is extracted with methylene chloride. After the concentration of the extracts by evaporation, the remaining residue is chromatographed on silica gel. A benzene/ethyl acetate mixture (5:1 to 2:1) is used as mobile phase. 1.6 g of dienone, which can be crystallized from aqueous methanol, is obtained.

reactant | 17beta-hydroxy-16alpha,17alpha-methylene-estr-5(10)-en-3-one | 2.3 g | O[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC=1CC(CCC1[C@H]2CC3)=O | C19H26O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 17beta-hydroxy-16alpha,17alpha-methylene-estra-4,9-dien-3-one | O[C@]12[C@]3(C)[C@@H](C[C@H]1C2)[C@@H]2CCC1=CC(CCC1=C2CC3)=O | C19H24O2
